US07829566B2
2-Methylbenzoxazin-4-one (0.24 mole) and ammonium acetate (0.30 mole) is given in 50 ml of N,N-dimethylacetamide and then heated to 160° under a nitrogen blanket for 2 h. After cooling to rt, the white solid is collected by filtration and washed with diethyl ether. Air drying give 2-methyl-quinazolin-4-one.

reactant | 2-Methylbenzoxazin-4-one | 0.24 mole | CN1OC2=C(C(C1)=O)C=CC=C2 | C9H9NO2
reactant | ammonium acetate | 0.30 mole | C(C)(=O)[O-].[NH4+]
reactant | N,N-dimethylacetamide | 50 ml | CN(C(C)=O)C | C4H9NO
product | 2-methyl-quinazolin-4-one | CC1=NC2=CC=CC=C2C(N1)=O | C9H8N2O
